US06248740B1
Production of N-(6-chloro[1,2,4]triazolo[1,5-b]pyridazine-2-carbonyl)glycine ethyl ester
2.86 g of 6-chloro[1,2,4]triazolo[1,5-b]pyridazine-2-carboxylic acid and 2.72 ml of N-ethyldiisopropylamine were suspended in 30 ml of N,N-dimethylformamide; 2.63 g of N,N′-carbonyldiimidazole was added, followed by stirring at room temperature for 1 hour. To the reaction mixture, 2.21 g of glycine ethyl ester hydrochloride was added, followed by stirring at room temperature for 5 hours. Water was added; the crystal precipitated was collected by filtration, washed with water and ether and dried to yield 2.93 g of the title compound.

reactant | 6-chloro[1,2,4]triazolo[1,5-b]pyridazine-2-carboxylic acid | 2.86 g | ClC=1C=CC=2N(N1)N=C(N2)C(=O)O | C6H3ClN4O2
reactant | N-ethyldiisopropylamine | 2.72 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | glycine ethyl ester hydrochloride | 2.21 g | Cl.C(C)OC(CN)=O
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-(6-chloro[1,2,4]triazolo[1,5-b]pyridazine-2-carbonyl)glycine ethyl ester | 2.93 g | C(C)OC(CNC(=O)C1=NN2N=C(C=CC2=N1)Cl)=O | C10H10ClN5O3
